Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer from OSH s/p fall
L 12th rib fracture and T11 through L3 transverse
spinous fractures. Small retroperitoneal hematoma
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ year old female who is transferred from and OSH s/p fall down 
4 stairs.
There was no head strike. There was no loss of consciousness. 
Abdominal pelvic CT shows left #12 rib fracture and T11 through 
L3 transverse
spinous fractures. There is also a small retroperitoneal
hematoma. Vital signs were stable
 
Past Medical History:
hypertension, hyperlipidemia, obesity
 
Social History:
___
Family History:
none pertinent to this admission
 
Physical Exam:
General: comfortable, NAD
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Chest: Clear to auscultation left chest wall tenderness at
the 12th rib
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: Upper lumbar tenderness.  Minor Left flank ecchymosis
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood
 
Pertinent Results:
___ 09:55AM   WBC-12.1* RBC-3.92 HGB-12.2 HCT-36.8 MCV-94 
MCH-31.1 MCHC-33.2 RDW-13.2 RDWSD-45.6
___ 09:55AM   PLT COUNT-254
___ 05:48AM URINE  HOURS-RANDOM
___ 05:48AM URINE  HOURS-RANDOM
___ 05:48AM URINE  HOURS-RANDOM
___ 05:48AM URINE  UCG-NEG
___ 05:48AM URINE  UHOLD-HOLD
___ 05:48AM URINE  GR HOLD-HOLD
___ 04:57AM   GLUCOSE-127* LACTATE-1.9 NA+-137 K+-4.0 
CL--104 TCO2-41*
___ 04:47AM   UREA N-14 CREAT-0.7
___ 04:47AM   estGFR-Using this
___ 04:47AM   LIPASE-30
___ 04:47AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:47AM   WBC-13.8* RBC-3.94 HGB-12.4 HCT-37.6 MCV-95 
MCH-31.5 MCHC-33.0 RDW-13.1 RDWSD-45.9
___ 04:47AM   PLT COUNT-255
___ 04:47AM   ___ PTT-26.6 ___
___ 04:47AM   ___fter transfer from the outside hospital, the patient underwent 
a thorough physical examination. There was noted tenderness 
around her ___ L rib and left flank ecchymosis. A CT scan of 
her head was obtained which revealed no intracranial hemorrhage. 
A CT scan of her chest was performed which revealed Acute 
fractures of the left posterior twelfth rib, as well as the left 
transverse processes of L1 and L2.  There was a know left L3 
transverse process fracture that was known from the outside 
hospital. There was multiple small lung nodules measuring up to 
3 mm that were incidentally found.  There was no evidence of 
fracture or malalignment noted on the CT c-spine. The spine 
service evaluated the patient and the decision was made to 
manage her injuries conservatively. She was allowed to mobilize 
as tolerated and was weight bearing as tolerated. No spine 
follow up was indicated. She was admitted overnight for pain 
control and observation. She did well overnight and her pain was 
adequately controlled. She was discharged on the appropriate 
medications and instructions the next day to control her pain. 
 
Medications on Admission:
lisinopril 5 mg ___ 
lovastatin 20 mg ___ 
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
discontinue if loose stooling or no longer taking narcotic pain 
medication  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do not operate machinery while on this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN constipation  
discontinue if loose stool or no longer taking narcotic pain 
medication  
*continued home medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rib and vertebrae fractures s/p fall from steps 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ and 
underwent conservative management of the injuries ___ sustained 
after your fall. ___ are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

Rib Fractures:

* Your injury caused a left 12th rib fracture which can cause 
severe pain and subsequently cause ___ to take shallow breaths 
because of the pain.
 
* ___ should take your pain medication as directed to stay ahead 
of the pain otherwise ___ won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk ___ must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* ___ will be more comfortable if ___ use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore ___ 
should take a stool softener twice ___ and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

___ also sustained T11 and L3 fractures that did not require 
surgical management. 

 
Followup Instructions:
___